US04550105
To a solution of 0.101 g of sodium (3S,4S)-4-acetoxy-3-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-2-oxoazetidine-1-sulfonate (anti-isomer) in 4 ml of water is added 29 mg of sodium monomethyldithiocarbamate under ice-cooling with stirring, and the mixture is stirred at room temperature for one hour. The insolubles are filtered off and the filtrate is purified on a column of XAD-II (Rohm and Haas Co.). The above procedure yields 48 mg of sodium (3S,4S)-4-acetoxy-3-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-2-oxoazetidine-1-sulfonate (anti-isomer).

reactant | sodium (3S,4S)-4-acetoxy-3-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-2-oxoazetidine-1-sulfonate | 0.101 g | C(C)(=O)O[C@H]1[C@@H](C(N1S(=O)(=O)[O-])=O)NC(C(=NOC)C=1N=C(SC1)NC(CCl)=O)=O.[Na+]
reactant | sodium monomethyldithiocarbamate | 29 mg | CSC(N)=S.[Na]
solvent | water | 4 ml | O | H2O
product | sodium (3S,4S)-4-acetoxy-3-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-2-oxoazetidine-1-sulfonate | 48 mg | C(C)(=O)O[C@H]1[C@@H](C(N1S(=O)(=O)[O-])=O)NC(C(=NOC)C=1N=C(SC1)N)=O.[Na+] | InChI=1S/C11H13N5O8S2.Na/c1-4(17)24-10-7(9(19)16(10)26(20,21)22)14-8(18)6(15-23-2)5-3-25-11(12)13-5;/h3,7,10H,1-2H3,(H2,12,13)(H,14,18)(H,20,21,22);/q;+1/p-1/t7-,10+;/m1./s1
